US08431563B2
Step 3: 3-(1-methylethyl)-4-((2R)-2-piperazinylmethyl)-2-piperazinone
A solution of 4-(((2R)-1,4-dibenzyl-2-piperazinyl)methyl)-3-(1-methylethyl)-2-piperazinone (0.414 g, 0.984 mmol) in ethanol (4.92 mL) was placed under an atmosphere of N2 and charged with 10% palladium on carbon (10% wt. (dry basis) on activated carbon, wet, Degussa type (0.314 g, 0.295 mmol, Sigma-Aldrich, St. Louis, Mo.)). The mixture was purged with hydrogen gas and stirred at room temperature under a hydrogen atmosphere (1 atm) for 72 h. The solids were then removed by filtering through a pad of Celite® (diatomaceous earth), rinsing with EtOH, the filtrate was concentrated, and the product was carried forward without further purification (238 mg).

reactant | 4-(((2R)-1,4-dibenzyl-2-piperazinyl)methyl)-3-(1-methylethyl)-2-piperazinone | 0.984 mmol, 0.414 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CN1C(C(NCC1)=O)C(C)C | C26H36N4O
solvent | ethanol | 4.92 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.295 mmol, 0.314 g | [Pd] | Pd
product | 3-(1-methylethyl)-4-((2R)-2-piperazinylmethyl)-2-piperazinone | CC(C)C1C(NCCN1C[C@@H]1NCCNC1)=O | C12H24N4O
